US07560558B2
Compound 186: 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-4-methyl-5-methylsulfanyl-phenyl]-ethanone
1-(2-Hydroxy-4-methyl-5-methylsulfanyl-phenyl)ethanone (29 mg), 4-chloro-6,7-dimethoxyquinoline (66 mg), and 4-dimethylaminopyridine (54 mg) were suspended in o-dichlorobenzene (2 ml) to prepare a suspension which was then stirred at 130° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (17 mg, yield 30%).

reactant | 1-(2-Hydroxy-4-methyl-5-methylsulfanyl-phenyl)ethanone | 29 mg | OC1=C(C=C(C(=C1)C)SC)C(C)=O | C10H12O2S
reactant | 4-chloro-6,7-dimethoxyquinoline | 66 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 54 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 2 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-4-methyl-5-methylsulfanyl-phenyl]-ethanone | 17 mg, yield 30% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C(=C1)C)SC)C(C)=O | C21H21NO4S
